US08198311B2
(2-(1-(4-Fluorophenyl)-1H-indazol-5-yl)-2-phenylcyclopropyl)methanamine (71 mg, 0.15 mmol) was coupled with 2,2,2-trifluoroethanesulfonyl chloride (50 mg, 0.5 mmol) using General Coupling Method B to give 60 mg (86% yield) of 2,2,2-trifluoro-N-((2-(1-(4-fluorophenyl)-1H-indazol-5-yl)-2-phenylcyclopropyl)methyl)ethanesulfonamide. MS found: (M+H)+=504.

reactant | (2-(1-(4-Fluorophenyl)-1H-indazol-5-yl)-2-phenylcyclopropyl)methanamine | 0.15 mmol, 71 mg | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)C1(C(C1)CN)C1=CC=CC=C1 | C23H20FN3
reactant | 2,2,2-trifluoroethanesulfonyl chloride | 0.5 mmol, 50 mg | FC(CS(=O)(=O)Cl)(F)F | C2H2ClF3O2S
product | 2,2,2-trifluoro-N-((2-(1-(4-fluorophenyl)-1H-indazol-5-yl)-2-phenylcyclopropyl)methyl)ethanesulfonamide | 60 mg, 86% yield | FC(CS(=O)(=O)NCC1C(C1)(C1=CC=CC=C1)C=1C=C2C=NN(C2=CC1)C1=CC=C(C=C1)F)(F)F | C25H21F4N3O2S
